* Isolated transient smoke test for the UA741 model
.include spice/OpAmps.lib

V_POS VPOS 0 15
V_NEG VNEG 0 -15
V_IN IN 0 PULSE(0 1 100u 1u 1u 400u 1m)
X_UA OFFSET1 OUT IN VNEG OFFSET2 OUT VPOS UA741CP
R_LOAD OUT 0 10k

* Gear integration and a larger transient iteration limit improve
* convergence consistently across ngspice versions used by CI and KiCad 10.
.options method=gear itl4=100
.tran 10u 2m
.print tran v(OUT)
.end
